US06875781B2
To a mixture of 2,4,6-trichloropyridine (50 mg, 0.27 mmol), 5-chloro-2-methoxy-phenylboronic acid (54 mg, 0.28 mmol), cesium fluoride (100 mg, 0.66 mmol) in ethylene glycol dimethyl ether (10 ml), degassed with argon, was added tetrakis(triphenylphosphine)palladium(0) (30 mg, 0.026 mmol). The mixture was heated under reflux for 2 hours and filtered through a pad of celite under suction. The filtrate was concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography eluting with ethyl acetate-hexane (1:9) to provide 2,4-dichloro-6-(5-chloro-2-methoxy-phenyl)-pyridine (25 mg, 32% yield). 1H NMR (acetone-d6) δ 3.95 (s, 3H, CH3), 7.24 (d, 1H, J=8.9 Hz, Ar), 7.49 (dd, 1H, J=8.9 Hz, J=2.8 Hz, Ar), 7.56 (d, 1H, J=2.8 Hz, Ar), 7.94 (d, 1H, J=2.8 Hz, Ar), 8.10 (d, 1H, J=1.6 Hz, Ar).

reactant | 2,4,6-trichloropyridine | 0.27 mmol, 50 mg | ClC1=NC(=CC(=C1)Cl)Cl | C5H2Cl3N
reactant | 5-chloro-2-methoxy-phenylboronic acid | 0.28 mmol, 54 mg | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | cesium fluoride | 0.66 mmol, 100 mg | [F-].[Cs+]
solvent | ethylene glycol dimethyl ether | 10 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.026 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,4-dichloro-6-(5-chloro-2-methoxy-phenyl)-pyridine | 25 mg, 32% yield | ClC1=NC(=CC(=C1)Cl)C1=C(C=CC(=C1)Cl)OC | C12H8Cl3NO
